US07452895B2
(R)-1-((S)-2-(4-(3-chloro-4-(thiazol-2-ylmethoxy)phenylamino)quinazolin-6-ylamino)-4,5-dihydrooxazol-4-yl)ethanol is prepared from (1R, 4S)-N6-[4-(1-tert-butoxyethyl)-4,5-dihydrooxazol-2-yl]-N4-[3-chloro-4-(thiazol-2-ylmethoxy)-phenyl]-quinazoline-4,6-diamine by standard deprotection methods using TFA in methylene chloride. MS ESI (+) m/z 497, 499 (M+1, Cl pattern) detected; 1H NMR (400 mHz, DMSO-D6) δ 9.53 (s, 1H), 8.47 (s, 1H), 8.08 (d, 1H), 7.87 (d, 1H), 7.80 (d, 1H), 7.76 (dd, 1H), 7.66 (m, 2H), 7.33 (d, 1H), 5.55 (s, 2H), 4.81 (m, 1H), 4.37 (m, 1H), 4.20 (m, 1H), 3.83 (m, 1H), 3.63 (m, 1H), 1.06 (d, 3H).

reactant | (1R, 4S)-N6-[4-(1-tert-butoxyethyl)-4,5-dihydrooxazol-2-yl]-N4-[3-chloro-4-(thiazol-2-ylmethoxy)-phenyl]-quinazoline-4,6-diamine | C(C)(C)(C)O[C@H](C)[C@H]1N=C(OC1)NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC=1SC=CN1)Cl | C27H29ClN6O3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (R)-1-((S)-2-(4-(3-chloro-4-(thiazol-2-ylmethoxy)phenylamino)quinazolin-6-ylamino)-4,5-dihydrooxazol-4-yl)ethanol | ClC=1C=C(C=CC1OCC=1SC=CN1)NC1=NC=NC2=CC=C(C=C12)NC=1OC[C@H](N1)[C@@H](C)O | C23H21ClN6O3S
